US08536185B2
Preparation of tert-butyl 4-(5-(2-phenylpyrimidin-5-yl)-2H-tetrazol-2-yl)piperidine-1-carboxylate
To a solution consisting of 2-phenyl-5-(2H-tetrazol-5-yl)pyrimidine (25 mg, 0.111 mmol) in DMF (2.0 mL) was added tert-butyl 4-(tosyloxy)piperidine-1-carboxylate (40 mg, 0.111 mmol), synthesized from tert-butyl 4-hydroxypiperidine-1-carboxylate (PCT International Application No. WO 2007/060026), and sodium carbonate (85 mg, 0.45 mmol). The suspension was vigorously stirred for 24 hours and an additional molar equivalent of tert-butyl 4-(tosyloxy)piperidine-1-carboxylate was added and the reaction was heated for another 24 hours at 70° C. After cooling to room temperature, the crude reaction mixture was diluted with ethyl acetate, washed sequentially with 1 M sodium carbonate, 5% citric acid, and brine. After solvent evaporation, the remaining crude solid was dissolved in a minimal amount of dichloromethane and purified by flash silica column chromatography. Elution through a 40-g Analogix® flash silica cartridge with 100% dichloromethane to 2% methanol in dichloromethane provided the title compound as an off-white solid. The solid was further purified by triturating with methanol to afford the title compound as a white solid (15 mg, 33% yield); Rf 0.37 with 95:2 v/v dichloromethane-methanol; melting point 178-180° C.; 1H-NMR (400 MHz; CDCl3) δ 9.47 (s, 2H), 8.52-8.49 (m, 2H), 7.52-7.50 (m, 3H), 4.96-4.95 (m, 2H), 4.23 (bs, 2H), 3.10-2.97 (m, 2H), 2.30-2.21 (m, 4H), 1.48 (s, 9H); MS (ESI+) m/z 408.2 (M+1).

reactant | 2-phenyl-5-(2H-tetrazol-5-yl)pyrimidine | 0.111 mmol, 25 mg | C1(=CC=CC=C1)C1=NC=C(C=N1)C=1N=NNN1 | C11H8N6
reactant | tert-butyl 4-(tosyloxy)piperidine-1-carboxylate | 0.111 mmol, 40 mg | S(=O)(=O)(C1=CC=C(C)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C17H25NO5S
reactant | tert-butyl 4-hydroxypiperidine-1-carboxylate | OC1CCN(CC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | sodium carbonate | 0.45 mmol, 85 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(5-(2-phenylpyrimidin-5-yl)-2H-tetrazol-2-yl)piperidine-1-carboxylate | C1(=CC=CC=C1)C1=NC=C(C=N1)C=1N=NN(N1)C1CCN(CC1)C(=O)OC(C)(C)C | C21H25N7O2
